US08119692B2
(3S,5R)-3-(4-(benzyloxy)but-2-enyl)-5-(4-fluorophenyl)dihydrofuran-2(3H)-one (Intermediate A7)
To a solution of lithium bis(trimethylsilyl)amide (4.6 mL, 4.6 mmol, 1M in THF) in anhydrous 40 mL THF at −70° C. was slowly added over 15 minutes ((R)-5-(4-fluorophenyl)dihydrofuran-2(3H)-one (685 mg, 3.8 mmol) as a solution in 4 mL THF. After the reaction mixture was stirred for 30 min at −70° C. a pre-cooled solution of (4-Iodo-but-2-enyloxymethyl)-benzene (1.3 g, 4.6 mmol) in 4 mL of THF was slowly added. The resulting mixture was stirred at −70° C. for 1 h and the temperature was slowly raised to room temperature over a period of 2 h. The mixture was poured into 20 mL saturated NH4Cl and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with brine (2×30 mL) and dried over Na2SO4. The solvent was removed under reduced pressure and the product isolated by Flash column chromatography eluting with 0% to 50% ethyl acetate/hexane to give 827 mg of the title compound as a light yellow oil.

reactant | lithium bis(trimethylsilyl)amide | 4.6 mmol, 1M, 4.6 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (R)-5-(4-fluorophenyl)dihydrofuran-2(3H)-one | 3.8 mmol, 685 mg | FC1=CC=C(C=C1)[C@H]1CCC(O1)=O | C10H9FO2
reactant | (4-Iodo-but-2-enyloxymethyl)-benzene | 4.6 mmol, 1.3 g | ICC=CCOCC1=CC=CC=C1 | C11H13IO
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | (3S,5R)-3-(4-(benzyloxy)but-2-enyl)-5-(4-fluorophenyl)dihydrofuran-2(3H)-one | 827 mg | C(C1=CC=CC=C1)OCC=CC[C@@H]1C(O[C@H](C1)C1=CC=C(C=C1)F)=O | C21H21FO3
